US04902725
p-phenoxy-2,2-dichloroacetophenone;
p-methoxy-2,2-dichloroacetophenone; 2-hydroxy-2,2-dimethylacetophenone; 2-hydroxy-2,2-diethylacetophenone; 2-hydroxy-2,2-dipropylacetophenone; p-isopropyl-2-hydroxy-2,2-dimethylacetophenone; p-isopropyl-2-hydroxy-2,2-diethylacetophenone; p-n-butyl-2-hydroxy-2-methyl-2-ethylacetophenone; p-dodecyl-2-hydroxy-2,2-dimethylacetophenone; p-phenoxy-2,2-dibromoacetophenone; 2,2-dibromoacetophenone; 2,2-dichloroacetophenone; 2,2-dimethylacetophenone; 2-hydroxy-2,2-cyclohexylacetophenone; p-cyclohexyl-2,2-dibutylacetophenone; 2-2,dimethoxy-2-phenylacetophenone; and 1-hydroxycyclohexane phenyl ketone.

reactant | p-methoxy-2,2-dichloroacetophenone | COC1=CC=C(C=C1)C(C(Cl)Cl)=O | C9H8Cl2O2
reactant | 2-hydroxy-2,2-dimethylacetophenone | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | 2-hydroxy-2,2-diethylacetophenone | OC(C(=O)C1=CC=CC=C1)(CC)CC | C12H16O2
reactant | 2-hydroxy-2,2-dipropylacetophenone | OC(C(=O)C1=CC=CC=C1)(CCC)CCC | C14H20O2
reactant | p-isopropyl-2-hydroxy-2,2-dimethylacetophenone | C(C)(C)C1=CC=C(C=C1)C(C(C)(C)O)=O | C13H18O2
reactant | p-isopropyl-2-hydroxy-2,2-diethylacetophenone | C(C)(C)C1=CC=C(C=C1)C(C(CC)(CC)O)=O | C15H22O2
reactant | p-n-butyl-2-hydroxy-2-methyl-2-ethylacetophenone | C(CCC)C1=CC=C(C=C1)C(C(CC)(C)O)=O | C15H22O2
reactant | p-dodecyl-2-hydroxy-2,2-dimethylacetophenone | C(CCCCCCCCCCC)C1=CC=C(C=C1)C(C(C)(C)O)=O | C22H36O2
reactant | p-phenoxy-2,2-dibromoacetophenone | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(Br)Br)=O | C14H10Br2O2
reactant | 2,2-dibromoacetophenone | BrC(C(=O)C1=CC=CC=C1)Br | C8H6Br2O
reactant | 2,2-dichloroacetophenone | ClC(C(=O)C1=CC=CC=C1)Cl | C8H6Cl2O
reactant | 2,2-dimethylacetophenone | CC(C(=O)C1=CC=CC=C1)C | C10H12O
reactant | p-cyclohexyl-2,2-dibutylacetophenone | C1(CCCCC1)C1=CC=C(C=C1)C(C(CCCC)CCCC)=O | C22H34O
reactant | 1-hydroxycyclohexane phenyl ketone | C1(=CC=CC=C1)C(=O)C1=CC=CC=C1.OC1CCCCC1
product | p-phenoxy-2,2-dichloroacetophenone | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(Cl)Cl)=O | C14H10Cl2O2
